US09303033B2
4-(2-(2-chloro-3-nitrophenoxy)ethyl)morpholine (873 mg, 3.1 mmol) was dissolved in toluene (12 mL). Ammonium formate (866 mg, 13.7 mmol) was dissolved in H2O (12 mL) and added. Iron powder (<10 micron, 766 mg, 13.7 mmol) was added and the reaction was placed in a 120° C. oil bath. After 1.25 h, the solution was cooled to 23° C. and filtered over a pad of celite eluting with 10% MeOH/dichloromethane (250 mL). The filtrate was concentrated in vacuo and the residue was purified via flash column chromatography to give 2-chloro-3-(2-morpholinoethoxy)aniline (503 mg, 75%) as a golden oil.

reactant | 4-(2-(2-chloro-3-nitrophenoxy)ethyl)morpholine | 3.1 mmol, 873 mg | ClC1=C(OCCN2CCOCC2)C=CC=C1[N+](=O)[O-] | C12H15ClN2O4
reactant | Ammonium formate | 13.7 mmol, 866 mg | C(=O)[O-].[NH4+]
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 12 mL | O | H2O
catalyst | Iron | 13.7 mmol, 766 mg | [Fe] | Fe
product | 2-chloro-3-(2-morpholinoethoxy)aniline | 503 mg, 75% | ClC1=C(N)C=CC=C1OCCN1CCOCC1 | C12H17ClN2O2
